US04680301
A solution of 1.7 g of 2-tert-butyl-5-[3-methylpiperidin-1-yl]-6-nitrobenzothiazole in 50 ml of methanol is hydrogenated in presence of 0.5 g of raney nickel at room temperature. After removing the catalyst the solution is concentrated and the solid filtered to give 6-amino-2-tert-butyl-5-[3-methylpiperidin-1-yl]benzothiazole melting at 108°-112°.

reactant | 2-tert-butyl-5-[3-methylpiperidin-1-yl]-6-nitrobenzothiazole | 1.7 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CC(CCC2)C | C17H23N3O2S
solvent | methanol | 50 ml | CO | CH4O
catalyst | raney nickel | 0.5 g | [Ni] | Ni
product | 6-amino-2-tert-butyl-5-[3-methylpiperidin-1-yl]benzothiazole | NC1=CC2=C(N=C(S2)C(C)(C)C)C=C1N1CC(CCC1)C | C17H25N3S
